Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ with pmh significant for rectal cancer s/p low anterior
resection with end colostomy over ___ years ago (no records
available) with known parastomal hernia transferred from ___ with abdominal pain. He reports his pain and abdominal
distention started after dinner and he self induced emesis with
some relief. Since the pain failed to subside he presented to 
the
___ ED. There he received IV morphine with symptomatic relief.
An NGT was offered to him but he declined. A CT A/P with PO
contrast was performed and showed dilated loops of small bowel
with a transition point at the site of the parastomal hernia. A
bedside reduction was attempted at ___ but was unsuccessful. He
is a long time patient of Dr. ___ has been seeing him at
___ and he expressed the preference to be transferred here to 
be
evaluated by her. 
At the time of consultation his pain has resolved and he denies
nausea or vomiting. He has not had ostomy output since yesterday
morning but reports that this is not unusual for him; in fact he
states his ostomy is often not productive for ___ days and will
then suddenly have copious output. He did have three acute
episodes of SBO in the past (the last one over ___ years ago) and
during one hospitalization for SBO he had a mesh repair of his
parastomal hernia. He denies fevers or chills. 
 
Past Medical History:
1. History of rectal CA s/p LAR and colostomy ___  
2. HTN  
3. Hyperlipidemia  
4. BPH 
5. Back surgery for sciatica?
6. Left foot drop secondary to nerve injury from car accident 
7. Palpitations since he was in his ___, on beta blocker, 
unclear etiology
8. PUD s/p partial gastrectomy
 
Family History:
Significant for a son with SCD in his ___--on autopsy "enlarged 
heart".  Brother with palpitations and "electrical conduction" 
problem.
 
Physical Exam:
Admission Physical Exam:
Vitals:36.5 71 140/77 16 100% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, mildly distended, non tender. There is a large non
reducible parastomal hernia. The ostomy appears well perfused. 
Ext: WWP

Discharge VS:
98.8, 66, 123/66, 18, 97%ra
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, mildly distended, non tender. There is a large non
reducible parastomal hernia. The ostomy is productive of stool 
Ext: WWP
 
Pertinent Results:
___ 05:25AM BLOOD WBC-6.6 RBC-3.84* Hgb-7.8*# Hct-26.0*# 
MCV-68*# MCH-20.3*# MCHC-30.0*# RDW-16.8* RDWSD-40.2 Plt ___
___ 05:25AM BLOOD Glucose-96 UreaN-17 Creat-1.0 Na-137 
K-4.4 Cl-103 HCO3-25 AnGap-13
___ 05:25AM BLOOD Calcium-7.7* Phos-3.0 Mg-2.5

Imaging:
CT A/P:
Dilated loops of small bowel leading to fecalized contents with 
a
transition point at a parastomal hernia of small bowel are
compatible with small bowel obstruction.  Distal small bowel
loops are collapsed.  

 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on ___ 
for evaluation and treatment of abdominal pain.  Admission 
abdominal/pelvic CT revealed a small bowel obstruction. The 
patient was hemodynamically stable. He was placed on bowel rest 
with IV fluid resuscitation and monitored closely with serial 
abdominal exams. 
.
Pain resolved. The patient began having bowel function via the 
ostomy and diet was progressively advanced on HD2 as tolerated 
to a regular diet with good tolerability. The patient voided 
without problem. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet and having ostomy function, ambulating, voiding without 
assistance, and denied abdominal pain.  The patient was 
discharged home without services. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Amiodarone 200 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Polyethylene Glycol 17 g PO DAILY  
4.  Amiodarone 200 mg PO DAILY  
5.  Atorvastatin 20 mg PO QPM  
6.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ with abdominal pain and no ostomy 
output. A CT scan showed you had a bowel obstruction due to your 
peristomal hernia. You were placed on bowel rest with IV fluids 
and close monitoring of your abdominal exam. Your pain resolved 
and you began having stool from your ostomy. You are now 
tolerating a regular diet and are medically cleared to be 
discharged home to continue your recovery. Please note the 
following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.

 
Followup Instructions:
___